US04476137
A mixture of 7-chloro-2-mercaptobenzoxazole (14.8 g.) and phosphorus pentachloride (29.2 g.) was heated at 160°-170° under reflux for 3 hours. The flask was fitted with a distilling head and the product was distilled in vacuo. The first two fractions were unreacted phosphorus chloride. Afterwards, the product distilled to give 2,7-dichlorobenzoxazole. This compound was reacted with hydrazine using the method described in procedure (a) of Example 1 and then reacted with acrylonitrile using procedure (c) of Example 1 to give 3-[1-(7-chloro-2-benzoxazolyl)hydrazino]propanenitrile, m.p. 114°-115° C.

reactant | 7-chloro-2-mercaptobenzoxazole | 14.8 g | ClC1=CC=CC=2N=C(OC21)S | C7H4ClNOS
reactant | phosphorus pentachloride | 29.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2,7-dichlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2Cl | C7H3Cl2NO
